US08580783B2
2-[2-amino-5-(2,3,4-trimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-8-ylamino]-ethanol
Operating as in Example 54, but employing 8-fluoro-5-(2,3,4-trimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine prepared as described in Example 33, instead of 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine and 2-hydroxy-ethylamine instead of morpholine, the title compound was obtained in 27% yield.

reactant | 8-fluoro-5-(2,3,4-trimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | FC=1C=CC=2C=3N(C(=NC2C1)CC1=C(C(=C(C=C1)OC)OC)OC)N=C(N3)N | C19H18FN5O3
reactant | 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | O1COC2=C1C=CC(=C2)CC2=NC=1C=C(C=CC1C=1N2N=C(N1)N)F | C17H12FN5O2
reactant | 2-hydroxy-ethylamine | OCCN | C2H7NO
product | 2-[2-amino-5-(2,3,4-trimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-8-ylamino]-ethanol | 27% yield | NC1=NN2C(=NC=3C=C(C=CC3C2=N1)NCCO)CC1=C(C(=C(C=C1)OC)OC)OC | C21H24N6O4
